US05322954
4,5-Dichloro-4-fluoro-3,4,5,6-tetrahydrophthalic anhydride
4-chloro-3,6-dihydrophthalic anhydride (0.63 g) and N-chlorosuccinimide (0.47 g) in methylene chloride (6.2 ml) was added to pyridinium poly(hydrogen fluoride) at room temperature. The reaction mixture was stirred for 2 hours and then carefully poured into a two phase system containing solid sodium carbonate and methylene chloride. The suspension was filtered, the methylene chloride layer was dried over magnesium sulfate and the solvent removed under reduced pressure.

reactant | 4-chloro-3,6-dihydrophthalic anhydride | 0.63 g | ClC=1CC2=C(C(=O)OC2=O)CC1 | C8H5ClO3
reactant | N-chlorosuccinimide | 0.47 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | pyridinium poly(hydrogen fluoride) | C1=CC=NC=C1.F
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 6.2 ml | C(Cl)Cl | CH2Cl2
product | 4,5-Dichloro-4-fluoro-3,4,5,6-tetrahydrophthalic anhydride | ClC1(CC2=C(C(=O)OC2=O)CC1Cl)F | C8H5Cl2FO3
